
* expanding   symbol:  lpopamp_ref.sym # of pins=9
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/lpopamp_ref.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/lpopamp_ref.sch
.subckt lpopamp  im  ip  o  avdd  avss  vsub  en  enb  ibias
*.iopin avdd
*.iopin avss
*.iopin ip
*.iopin im
*.iopin o
*.iopin ibias
*.iopin en
*.iopin enb
*.iopin vsub
xslice[1] im ip o avdd avss en enb bpa bpb bnb bna xp ypp ypm zpp zpm xn ynp ynm znp znm
+ lpopamp_slice
xslice[0] im ip o avdd avss en enb bpa bpb bnb bna xp ypp ypm zpp zpm xn ynp ynm znp znm
+ lpopamp_slice
ralias_ibias ibias bnb 1 m=1
C1 o zpm c=8p m=1
C2 o znm c=8p m=1
.ends


* expanding   symbol:  lpopamp_slice.sym # of pins=22
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/lpopamp_slice.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/lpopamp_slice.sch
.subckt lpopamp_slice  im  ip  o  avdd  avss  en  enb  bpa  bpb  bnb  bna  xp  ypp  ypm  zpp  zpm
+  xn  ynp  ynm  znp  znm
*.iopin avdd
*.iopin avss
*.iopin ip
*.iopin im
*.iopin o
*.iopin bpa
*.iopin bpb
*.iopin bnb
*.iopin bna
*.iopin ypp
*.iopin ypm
*.iopin zpm
*.iopin zpp
*.iopin ynp
*.iopin ynm
*.iopin znm
*.iopin znp
*.iopin xp
*.iopin xn
*.iopin vsub
x00b[1] bnb bnb bna_[1] avss n8_1
x00b[0] bnb bnb bna_[0] avss n8_1
x02c[1] bpb bna avss avss n1_4
x02c[0] bpb bna avss avss n1_4
x02b[1] bpb bpb bpa_[1] avdd p8_1
x02b[0] bpb bpb bpa_[0] avdd p8_1
x02a[1] bpa_[1] bpa avdd avdd p1_4
x02a[0] bpa_[0] bpa avdd avdd p1_4
x10b[1] ynp im xp avdd p4_1
x10b[0] ynp im xp avdd p4_1
x11a[1] xp bpa avdd avdd p1_4
x11a[0] xp bpa avdd avdd p1_4
x11b[1] ynm ip xp avdd p4_1
x11b[0] ynm ip xp avdd p4_1
x13a[1] wp[1] bpa avdd avdd p1_4
x13a[0] wp[0] bpa avdd avdd p1_4
x13c[1] znp znp ynp avss n3_1
x13c[0] znp znp ynp avss n3_1
x3d[3] ynp znp avss avss n1_4
x3d[2] ynp znp avss avss n1_4
x3d[1] ynp znp avss avss n1_4
x3d[0] ynp znp avss avss n1_4
x13b[1] znp bpb wp[1] avdd p1_3
x13b[0] znp bpb wp[0] avdd p1_3
x14f[3] ynm znp avss avss n1_4
x14f[2] ynm znp avss avss n1_4
x14f[1] ynm znp avss avss n1_4
x14f[0] ynm znp avss avss n1_4
x14e[1] znm znp ynm avss n3_1
x14e[0] znm znp ynm avss n3_1
x10a[1] xp bpa avdd avdd p1_4
x10a[0] xp bpa avdd avdd p1_4
x10d[1] xn bna avss avss n1_4
x10d[0] xn bna avss avss n1_4
x11d[1] xn bna avss avss n1_4
x11d[0] xn bna avss avss n1_4
x10c[1] ypp im xn avss n4_1
x10c[0] ypp im xn avss n4_1
x11c[1] ypm ip xn avss n4_1
x11c[0] ypm ip xn avss n4_1
x12d[1] wn[1] bna avss avss n1_4
x12d[0] wn[0] bna avss avss n1_4
x12c[1] zpp bnb wn[1] avss n1_3
x12c[0] zpp bnb wn[0] avss n1_3
x12b[1] zpp zpp ypp avdd p3_1
x12b[0] zpp zpp ypp avdd p3_1
x12a[3] ypp zpp avdd avdd p1_4
x12a[2] ypp zpp avdd avdd p1_4
x12a[1] ypp zpp avdd avdd p1_4
x12a[0] ypp zpp avdd avdd p1_4
x14b[1] zpm zpp ypm avdd p3_1
x14b[0] zpm zpp ypm avdd p3_1
x14a[3] ypm zpp avdd avdd p1_4
x14a[2] ypm zpp avdd avdd p1_4
x14a[1] ypm zpp avdd avdd p1_4
x14a[0] ypm zpp avdd avdd p1_4
x14c[1] znm bpb zpm avdd p4_1
x14c[0] znm bpb zpm avdd p4_1
x14d[1] zpm bnb znm avss n4_1
x14d[0] zpm bnb znm avss n4_1
x21b[1] o znm avss avss n4_1
x21b[0] o znm avss avss n4_1
x21a[1] o zpm avdd avdd p4_1
x21a[0] o zpm avdd avdd p4_1
x01c[1] bna enb avss avss n1_1
x01c[0] bna enb avss avss n1_1
x01b[1] bna_[1] en bna avss n1_1
x01b[0] bna_[0] en bna avss n1_1
x00c[1] bna_[1] bna avss avss n1_4
x00c[0] bna_[0] bna avss avss n1_4
x03a[1] bpa en avdd avdd p1_1
x03a[0] bpa en avdd avdd p1_1
x03b[1] bpa_[1] enb bpa avdd p1_1
x03b[0] bpa_[0] enb bpa avdd p1_1
x00a[1] avdd bpa avdd avdd p1_4
x00a[0] avdd bpa avdd avdd p1_4
x20b[1] znm enb avss avss n1_1
x20b[0] znm enb avss avss n1_1
x20a[1] zpm en avdd avdd p4_1
x20a[0] zpm en avdd avdd p4_1
.ends


* expanding   symbol:  n8_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n8_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n8_1.sch
.subckt n8_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xr D G S B n4_1
xl D G S B n4_1
.ends


* expanding   symbol:  n1_4.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_4.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_4.sch
.subckt n1_4  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xd D G X B n1_2
xs X G S B n1_2
.ends


* expanding   symbol:  p8_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p8_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p8_1.sch
.subckt p8_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xl D G S B p4_1
xr D G S B p4_1
.ends


* expanding   symbol:  p1_4.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_4.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_4.sch
.subckt p1_4  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xs X G S B p1_2
xd D G X B p1_2
.ends


* expanding   symbol:  p4_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p4_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p4_1.sch
.subckt p4_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xl D G S B p2_1
xr D G S B p2_1
.ends


* expanding   symbol:  n3_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n3_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n3_1.sch
.subckt n3_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xr D G S B n1_1
xl D G S B n2_1
.ends


* expanding   symbol:  p1_3.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_3.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_3.sch
.subckt p1_3  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xs X G S B p1_2
xd D G X B p1_1
.ends


* expanding   symbol:  n4_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n4_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n4_1.sch
.subckt n4_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xr D G S B n2_1
xl D G S B n2_1
.ends


* expanding   symbol:  n1_3.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_3.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_3.sch
.subckt n1_3  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xd D G X B n1_1
xs X G S B n1_2
.ends


* expanding   symbol:  p3_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p3_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p3_1.sch
.subckt p3_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xl D G S B p2_1
xr D G S B p1_1
.ends


* expanding   symbol:  n1_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_1.sch
.subckt n1_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
**** begin user architecture code


X0 x g s b sg13_hv_nmos W=1.0u L=0.5u ng=1 m=1
X1 d g x b sg13_hv_nmos W=1.0u L=0.5u ng=1 m=1


**** end user architecture code
.ends


* expanding   symbol:  p1_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_1.sch
.subckt p1_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
**** begin user architecture code


X0 d g s b sg13_hv_pmos W=1.0u L=0.5u ng=1 m=1
X1 d g s b sg13_hv_pmos W=1.0u L=0.5u ng=1 m=1


**** end user architecture code
.ends


* expanding   symbol:  n1_2.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_2.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n1_2.sch
.subckt n1_2  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xd D G X B n1_1
xs X G S B n1_1
.ends


* expanding   symbol:  p1_2.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_2.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p1_2.sch
.subckt p1_2  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xs X G S B p1_1
xd D G X B p1_1
.ends


* expanding   symbol:  p2_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p2_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/p2_1.sch
.subckt p2_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xl D G S B p1_1
xr D G S B p1_1
.ends


* expanding   symbol:  n2_1.sym # of pins=4
* sym_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n2_1.sym
* sch_path: /home/rodovalho/git/sg13cmos5l_rodovalho_ip__lpopamp/xschem/n2_1.sch
.subckt n2_1  D  G  S  B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
xr D G S B n1_1
xl D G S B n1_1
.ends

.GLOBAL GND
** flattened .save nodes
.end

